US09260427B2
Prepared using General Procedure 7. To a stirred solution of tert-butyl ((S)-2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate (418 mg, 0.75 mmol), 5-(tert-butyl)thiophene-2-carboxylic acid (137 mg, 0.75 mmol) in DMF (8 mL) was added TEA (208 μl, 1.49 mmol). The mixture was cooled to 0° C. and HATU (298 mg, 0.78 mmol) was added in 2 portions over 5 mins. The mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with EA (150 mL) and washed with saturated aqueous NaHCO3 (100 mL), 1N HCl (100 mL), and brine (100 mL). The organic layer was dried over MgSO4 then concentrated. The crude product was purified by chromatography 0-30% ACN in DCM to afford 382 mg (69%) of tert-butyl ((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate as a white solid. LCMS-ESI (m/z) calculated for C42H54N4O5S: 726.4; no m/z observed, tR=3.47 min (Method 11).

reactant | tert-butyl ((S)-2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate | 0.75 mmol, 418 mg | N[C@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C33H44N4O4
reactant | 5-(tert-butyl)thiophene-2-carboxylic acid | 0.75 mmol, 137 mg | C(C)(C)(C)C1=CC=C(S1)C(=O)O | C9H12O2S
reactant | HATU | 0.78 mmol, 298 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EA | 150 mL | CC(OCC)=O | C4H8O2
product | tert-butyl ((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate | 382 mg, 69% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C42H54N4O5S
